US06392077B1
In the same apparatus and procedure as Example 1 above, 0.22 g (0.67 mmol) of benzyltributylphosphonium chloride, 1.23 g (6.69 mmol) of (chloromethyl)trichlorosilane, and 2.71 g (20.0 mmol) of trichlorosilane were reacted at 160° C. for 15 hrs. The resulting mixture was distilled to give 1.13 g of 1,1,1,3,3,3-hexachloro-1,3-disilapropane (yield; 68%).

reactant | benzyltributylphosphonium chloride | 0.67 mmol, 0.22 g | [Cl-].C(C1=CC=CC=C1)[P+](CCCC)(CCCC)CCCC
reactant | (chloromethyl)trichlorosilane | 6.69 mmol, 1.23 g | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | trichlorosilane | 20.0 mmol, 2.71 g | Cl[SiH](Cl)Cl | Cl3HSi
product | 1,1,1,3,3,3-hexachloro-1,3-disilapropane | 1.13 g, yield; 68% | Cl[Si](C[Si](Cl)(Cl)Cl)(Cl)Cl | CH2Cl6Si2
